US06046201
6-(4-Ethyl-1-piperazinyl)pyridine-3-carboxamide
A mixture of 0.5 g of 6-chloronicotinamide and 3 ml of 1-ethylpiperazine was stirred at 110° C. for 2 hours. The reaction solution was diluted with ethyl acetate, washed with water and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to afford 0.10 g of the title compound.

reactant | 6-chloronicotinamide | 0.5 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | 1-ethylpiperazine | 3 ml | C(C)N1CCNCC1 | C6H14N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-Ethyl-1-piperazinyl)pyridine-3-carboxamide | 0.10 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)N | C12H18N4O
